** sch_path: /home/lrburle/Nextcloud/Mass Storage/Projects/syracuse_tutorial/xschem/sim/tb_inv.sch
**.subckt tb_inv Y A
*.opin Y
*.ipin A
V1 VDD GND 3.3
V2 VSS GND 0
V3 A GND PULSE(0 3.3 0 1ns 1ns 2us 4us)
x1 A Y VDD VSS gf180mcu_osu_sc_gp12t3v3__inv_1
**** begin user architecture code


.include $PDK_ROOT/gf180mcuC/libs.tech/ngspice/design.ngspice
.library "$PDK_ROOT/gf180mcuC/libs.tech/ngspice/sm141064.ngspice" typical

.control
TRAN 0.1u 5u
save all
set filetype=binary
write tb_inv_tran.raw
.endc


**** end user architecture code
**.ends

* expanding   symbol:  gf180mcu_osu_sc_gp12t3v3__inv_1.sym # of pins=2
** sym_path: /home/lrburle/Nextcloud/Mass Storage/Projects/syracuse_tutorial/xschem/sim/gf180mcu_osu_sc_gp12t3v3__inv_1.sym
** sch_path: /home/lrburle/Nextcloud/Mass Storage/Projects/syracuse_tutorial/xschem/sim/gf180mcu_osu_sc_gp12t3v3__inv_1.sch
.subckt gf180mcu_osu_sc_gp12t3v3__inv_1 A Y VDD VSS
*.ipin A
*.opin Y
XM1 Y A VDD VDD pfet_03v3 L=0.3u W=1.7u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0
XM2 Y A VSS VSS nfet_03v3 L=0.3u W=0.85u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0
.ends

.end
